US07655679B2
9.0 g 4-bromo-2-methylbenzonitrile, 2.76 g tri-o-tolylphosphine, 3.11 ml acrylic acid and 25.1 ml triethylamine are dissolved in 80 ml acetonitrile. The reaction mixture is degassed, then 2.0 g palladium (II)acetate were added and the mixture stirred two hours under microwave irradiation at 200° C. The cooled reaction mixture was diluted by addition of 50 ml ethyl acetate. Thereby (E)-3-(4-Cyano-3-methyl-phenyl)-acrylic acid precipitated as a white solid. The precipitate was filtered off and dried in vacuo to obtain 2.5 g (E)-3-(4-Cyano-3-methyl-phenyl)-acrylic acid. The filtrate was washed with 1N HCl, thereby (E)-3-(4-Cyano-3-methyl-phenyl)-acrylic acid precipitated again as a white solid. The precipitate was filtered off and dried in vacuo to obtain 2.0 g (E)-3-(4-Cyano-3-methyl-phenyl)-acrylic acid. The filtrate was reduced in vacuo to one third of its volume, 150 ml diethyl ether were added, thereby (E)-3-(4-Cyano-3-methyl-phenyl)-acrylic acid precipitated again as a white solid. The precipitate was filtered off and dried in vacuo to obtain 840 mg (E)-3-(4-Cyano-3-methyl-phenyl)-acrylic acid

reactant | 4-bromo-2-methylbenzonitrile | 9.0 g | BrC1=CC(=C(C#N)C=C1)C | C8H6BrN
reactant | tri-o-tolylphosphine | 2.76 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | acrylic acid | 3.11 ml | C(C=C)(=O)O | C3H4O2
reactant | triethylamine | 25.1 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (E)-3-(4-Cyano-3-methyl-phenyl)-acrylic acid | 2.5 g | C(#N)C1=C(C=C(C=C1)/C=C/C(=O)O)C | C11H9NO2
